US07786165B2
3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoic acid hydrochloride
To a solution of 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoic acid (2.66 g, 5.72 mmol) in ethyl acetate (15 mL) was added 4 N hydrogen chloride/ethyl acetate solution (5 mL), and the resulting solid was pulverized and washed with ethyl acetate-diethyl ether to give the title compound as colorless crystals (2.78 g, yield 97%).

reactant | 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoic acid | 5.72 mmol, 2.66 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)O)F)C | C28H32FNO4
reactant | hydrogen chloride ethyl acetate | 4 N, 5 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoic acid hydrochloride | 2.78 g, yield 97% | Cl.C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)O)F)C | InChI=1S/C28H32FNO4.ClH/c1-4-33-12-13-34-25-14-19(2)28(20(3)15-25)23-7-5-6-21(16-23)18-30-24-10-8-22(26(29)17-24)9-11-27(31)32;/h5-8,10,14-17,30H,4,9,11-13,18H2,1-3H3,(H,31,32);1H
